US05998624
1-(2-iodophenyl)-N-methyl-3-isoquinoline carboxamide (8a)
To a mixture of 1-(2-iodophenyl)-3-isoquinolinecarboxylic acid (0.1868 g, 0.5 mmol), benzotriazol-1-yloxy-tris (demethylamino) phosphonium hexafluorophosphate (BOP) (0.2219 g, 0.5 mmol), Methylamine hydrochloride (0.1019 g, 1.5 mmol) in DMF (8 mL) was added Et3N (0.42 mL, 4.5 mmol). The resulting mixture was stirred under Ar at room temperature for 7 h and quenched by adding H2O (10 mL). The mixture was extracted with CH2Cl2 (3×15 mL). The combined organic layers were dried (MgSO4), filtered. The filtrate was concentrated in vacuo. The residue was purified on column (SiO2, 50% ethyl acetate/hexane, 0.1% Et3N), thereby giving a white foam (0.1237 g, 65%). mp: 167-168° C. 1H NMR (CDCl3) d 3.03, 3.05 (two s, 3 H, N-methyl), 7.25 (t, J=10.5 Hz, 1 H, aromatic), 7.39 (d, J=7.5 Hz, 1 H), 7.48-7.68 (m, 3 H, aromatic), 7.75 (t, J=9 Hz, 1 H, aromatic), 8.02-8.06 (m, 2 H, aromatic), 8.18 (br s, 1 H, NH), 8.65 (s, aromatic). 13C NMR (CDCl3) d 26.13 (q, N-methyl), 97.79 (s, C--I), 120.02 (d, aromatic), 127.29 (d, aromatic), 127.75 (d, aromatic), 127.98 (d, aromatic), 128.53 (d, aromatic), 128.76 (d, aromatic), 130 13 (d, aromatic), 130.31 (d, aromatic), 130.81 (d, aromatic), 136.81 (s, aromatic), 139.42 (d, aromatic), 142.59 (s, aromatic), 143.30 (s, aromatic), 160.79 (s, aromatic), 165.32 (s, --CO--). HRMS calcd. for C17H13IN3IN2O: 388.0073. Found: 388.0070.

reactant | 1-(2-iodophenyl)-3-isoquinolinecarboxylic acid | 0.5 mmol, 0.1868 g | IC1=C(C=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)O | C16H10INO2
reactant | Methylamine hydrochloride | 1.5 mmol, 0.1019 g | Cl.CN
reactant | Et3N | 4.5 mmol, 0.42 mL | CCN(CC)CC | C6H15N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 1-(2-iodophenyl)-N-methyl-3-isoquinoline carboxamide | 0.1237 g, 65% | IC1=C(C=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)NC | C17H13IN2O
